US06610694B1
Production of Ethyl 6-Chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate
7.04 g of (6-chloro-3-pyridazinyl)hydrazine was dissolved in 70 ml of ethanol; 8.6 ml of diethyl oxalate was added, followed by stirring at room temperature for 16 hours and subsequent refluxing under heating for 1 day. After cooling, the precipitated crystal was washed with diethyl ether and dried to yield 7.32 g of the title compound.

reactant | (6-chloro-3-pyridazinyl)hydrazine | 7.04 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | diethyl oxalate | 8.6 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | Ethyl 6-Chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 7.32 g | ClC=1C=CC=2N(N1)C(=NN2)C(=O)OCC | C8H7ClN4O2
